US04642375
19.4 g (0.1 mole) of dimethyl terephthalate and 12.9 g (0.1 mole) of octylamine are refluxed for 8 hours in 100 ml of methanol together with 9 g (0.05 mole) of sodium methylate (30% strength). Working up as in Example 1 produces 26.5 g (91%) of 4-carbomethoxybenzoic acid octylamide having a 30% terephthalic acid bisoctylamide content.

reactant | dimethyl terephthalate | 0.1 mole, 19.4 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | octylamine | 0.1 mole, 12.9 g | C(CCCCCCC)N | C8H19N
reactant | sodium methylate | 0.05 mole, 9 g | C[O-].[Na+]
reactant | terephthalic acid bisoctylamide | C(CCCCCCC)N(C(C1=CC=C(C(=O)O)C=C1)=O)CCCCCCCC | C24H39NO3
solvent | methanol | 100 ml | CO | CH4O
product | 4-carbomethoxybenzoic acid octylamide | 26.5 g, 91% | C(CCCCCCC)NC(C1=CC=C(C=C1)C(=O)OC)=O | C17H25NO3
